US05576340
N-[2-(4- Methoxycarbonylmethylphenoxy)-1(R)-methylethyl]-2(R)-t-butyldimethylsilyloxy-2-(3- chlorophenyl)ethanamine
Following a procedure similar to that described in Preparation 29, but using 5.2 g of (R)-α-t-butyl-dimethylsilyloxy-α-(3-chlorophenyl)acetaldehyde (prepared as described in Preparation 49), 4.24 g of methyl 4-[2(R)-amino-1-propoxy]phenylacetate (prepared as described in Preparation 27), 50 ml of absolute methanol and 3.4 g of sodium cyanoborohydride, the title compound was obtained having an Rf=0.20 (thin layer chromatography over silica gel, using a 1:4 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | (R)-α-t-butyl-dimethylsilyloxy-α-(3-chlorophenyl)acetaldehyde | 5.2 g | [Si](C)(C)(C(C)(C)C)O[C@@H](C=O)C1=CC(=CC=C1)Cl | C14H21ClO2Si
reactant | methyl 4-[2(R)-amino-1-propoxy]phenylacetate | 4.24 g | N[C@@H](COC1=CC=C(C=C1)CC(=O)OC)C | C12H17NO3
reactant | sodium cyanoborohydride | 3.4 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | N-[2-(4- Methoxycarbonylmethylphenoxy)-1(R)-methylethyl]-2(R)-t-butyldimethylsilyloxy-2-(3- chlorophenyl)ethanamine | COC(=O)CC1=CC=C(OC[C@@H](C)NC[C@@H](C2=CC(=CC=C2)Cl)O[Si](C)(C)C(C)(C)C)C=C1 | C26H38ClNO4Si
